US08748446B2
A mixture of 3,4,5-triiodophenylhydrazine 2 g (4 mmol) and 1 g (5 mmol) of 7-methyl-8-oxononanoic acid was refluxed in 15 mL of acetic acid for 16 hours. The acetic acid was evaporated, and the residue was dissolved in CHCl3, and washed by aqueous NaHCO3 and water. The organic layer was dried with CaCl2 and solvent was removed under reduced pressure by a rotary evaporator. The residue was column purified (Silica gel 60, 0-4% methanol-chloroform) to give 0.6 g of 6-(4,5,6-triiodo-2,3-dimethyl-3H-3-indolyl)hexanoic acid. 1H-NMR (200 MHz, DMSO-d6), δ, ppm: 8.02 (1H, s, arom.), 2.16 (3H, s, 2-CH3), 2.07 (2H, t, CH2COOH), 1.65-1.05 (6H, m, CH2), 1.26 (3H, s, CH3), 0.58-0.20 (2H, m, CH2).

reactant | 3,4,5-triiodophenylhydrazine | 4 mmol, 2 g | IC=1C=C(C=C(C1I)I)NN | C6H5I3N2
reactant | 7-methyl-8-oxononanoic acid | 5 mmol, 1 g | CC(CCCCCC(=O)O)C(C)=O | C10H18O3
solvent | acetic acid | 15 mL | C(C)(=O)O | C2H4O2
product | 6-(4,5,6-triiodo-2,3-dimethyl-3H-3-indolyl)hexanoic acid | 0.6 g | IC1=C2C(C(=NC2=CC(=C1I)I)C)(C)CCCCCC(=O)O | C16H18I3NO2
